US04665202
A solution of 0.48 g 4-methoxy-flav-3-ene, 1 ml trifluoroacetic anhydride and 0.2 ml pyridine in 9 ml methylene chloride is stirred at room temperature for one hour. After washing with water, drying over magnesium sulfate and evaporation, the crude solid is recrystallized from hexane. Pure 4-methoxy-3-trifluoroacetyl-flav-3-ene is obtained as yellow crystals, m.p. 88°-90° C.

reactant | 4-methoxy-flav-3-ene | 0.48 g | COC1=CC(OC2=CC=CC=C12)C1=CC=CC=C1 | C16H14O2
reactant | trifluoroacetic anhydride | 1 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | 0.2 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 9 ml | C(Cl)Cl | CH2Cl2
product | 4-methoxy-3-trifluoroacetyl-flav-3-ene | COC1=C(C(OC2=CC=CC=C12)C1=CC=CC=C1)C(C(F)(F)F)=O | C18H13F3O3
